US05004745
A suspension of 16.4 g of 8-chloro-3-ethoxycarbonyl-7-fluoro-1-(N-formyl-N-methylamino)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine in 164 cm3 of acetic acid and 164 cm3 of an aqueous 17.5% hydrochloric acid solution is heated at a temperature close to 100° C., with stirring, for 4 hours. After cooling to a temperature close to 10° C., 165 cm3 of 30% slaked lime is added at between 10° and 20° C. The product is drained and washed with 3 times 150 cm3 of water, 3 times 150 cm3 of ethanol and 3 times 150 cm3 of diethyl ether. 13.64 g of 8-chloro-7-fluoro-1-methylamino-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid are obtained in the form of a yellow solid melting at 354°-356° C., which is used for the subsequent steps without further purification.

reactant | 8-chloro-3-ethoxycarbonyl-7-fluoro-1-(N-formyl-N-methylamino)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine | 16.4 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)OCC)N(C)C=O)C1)F | C17H13ClFN3O4
reactant | hydrochloric acid | Cl | ClH
reactant | slaked lime | 165 cm3 | [OH-].[Ca+2].[OH-]
solvent | acetic acid | 164 cm3 | C(C)(=O)O | C2H4O2
product | 8-chloro-7-fluoro-1-methylamino-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 13.64 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)NC)C1)F | C14H9ClFN3O3
